US05981533
3-(4-Acetylamino-benzylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole
A mixture of 0.48 g (1.4 mmol) of 3-(4-acetylamino-benzylamino)-5-amino-4-cyano-pyrazole containing 21.06% THF, 0.245 ml (1.43 mmol) of N,N-dimethylformamide diethyl acetal and 4 ml of toluene is heated under reflux for 4.5 hours. The reaction mixture is then cooled to approx. 0° C. and filtered and the filter residue is washed with toluene, yielding the title compound; m.p. 206-211° C.

reactant | 3-(4-acetylamino-benzylamino)-5-amino-4-cyano-pyrazole | 1.4 mmol, 0.48 g | C(C)(=O)NC1=CC=C(CNC2=NNC(=C2C#N)N)C=C1 | C13H14N6O
reactant | N,N-dimethylformamide diethyl acetal | 1.43 mmol, 0.245 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Acetylamino-benzylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | C(C)(=O)NC1=CC=C(CNC2=NNC(=C2C#N)N=CN(C)C)C=C1 | C16H19N7O
